US03931239
A stirred suspension of 4,5-dimethyl-6-hydroxy-7-propyl-1,2,7,8-tetrahydro-6H-indeno[5,4-b]furan-2-carboxylic acid (5.0 g., 0.017 mole) in acetone (250 ml.) is treated over a ten minute period with an oxidizing reagent prepared from chromium trioxide (2.5 g. and concentrated sulfuric acid (2.2 ml.) in water (18 ml.). The acetone solution is decanted from the precipitated chromium salts and poured into water (700 ml.) affording 4,5-dimethyl-6-oxo-7-propyl-1,2,7,8-tetrahydro-6H-indeno-[5,4-b]furan-2-carboxylic acid which melts at 161°C. after recrystallization from butyl chloride.

reactant | 4,5-dimethyl-6-hydroxy-7-propyl-1,2,7,8-tetrahydro-6H-indeno[5,4-b]furan-2-carboxylic acid | 0.017 mole, 5.0 g | CC1=C(C=2C(C(CC2C2=C1OC(C2)C(=O)O)CCC)O)C | C17H22O4
reactant | sulfuric acid | 2.2 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetone | 250 ml | CC(=O)C | C3H6O
solvent | water | 18 ml | O | H2O
catalyst | chromium trioxide | [O-2].[O-2].[O-2].[Cr+6]
product | 4,5-dimethyl-6-oxo-7-propyl-1,2,7,8-tetrahydro-6H-indeno-[5,4-b]furan-2-carboxylic acid | CC1=C(C=2C(C(CC2C2=C1OC(C2)C(=O)O)CCC)=O)C | C17H20O4
